US07893056B2
To a solution of racemic phenylmethyl 4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinecarboxylate (assumed 0.6565 g, 2.376 mmol) in MeOH was added 10% Pd/C (50% water, 195 mg). The mixture was hydrogenated under balloon pressure for 1 h, and then filtered. The solution was concentrated in vacuo to afford racemic N,N,4,4-tetramethyl-3-pyrrolidinamine (0.3479 g, quantitative yield) as an almost colorless oil. LCMS: (M+H)+: 143.1.

reactant | racemic phenylmethyl 4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinecarboxylate | 2.376 mmol, 0.6565 g | CN(C1C(CN(C1)C(=O)OCC1=CC=CC=C1)(C)C)C | C16H24N2O2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 195 mg | [Pd] | Pd
product | racemic N,N,4,4-tetramethyl-3-pyrrolidinamine | 0.3479 g, quantitative yield | CN(C1CNCC1(C)C)C | C8H18N2
